US07635715B2
Step C: Preparation of 1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate
tert-Butyl 2-aminoacetate hydrochloride (901 mg, 5376 μmol) was added to a mixture of ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalene]-3′-carboxylate (1.20 g, 3584 μmol) in 1,4-dioxane (3584 μL) and N-ethyl-N-isopropylpropan-2-amine (1873 μL, 10753 μmol). The resulting mixture was heated at 80° C. for 2 hours. The resulting mixture was then diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed 2 times with 50 mL of NaHCO3 (saturated, aqueous), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (185 mg) as a light yellow solid after purification via preparatory HPLC. MS (m/z)=364(M+H-tBu)+.

reactant | tert-Butyl 2-aminoacetate hydrochloride | 5376 μmol, 901 mg | Cl.NCC(=O)OC(C)(C)C
reactant | ethyl 6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalene]-3′-carboxylate | 3584 μmol, 1.20 g | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCCC3)=O)C(=O)OCC)O | C18H19ClO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 10753 μmol, 1873 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 3584 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl N-((6′-chloro-4′-hydroxy-2′-oxo-spiro[cyclohexane-1,1′-naphthalen]-3′-yl)carbonyl)glycinate | 185 mg | ClC=1C=C2C(=C(C(C3(C2=CC1)CCCCC3)=O)C(=O)NCC(=O)OC(C)(C)C)O | C22H26ClNO5
